US04294960
N,N-Dimethylformamide (0.16 g.) and phosphorous oxychloride (0.34 g.) were mixed to prepare Vilsmeier reagent in a usual manner, and the resultant Vilsmeier reagent was suspended in dry ethyl acetate. To the suspension was added 2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetic acid (syn isomer, 0.46 g.) under ice-cooling with stirring, and then the solution was stirred at the same temperature for 30 minutes to prepare the activated acid solution. p-Nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride (0.81 g.) was dissolved in a solution of trimethylsilylacetamide (2.10 g.) in ethyl acetate (200 ml.). To the solution was added the activated acid solution obtained above all at once at -20° C., and the solution was stirred at -20°~-5° C. for 1.5 hours. After water and ethyl acetate (100 ml.) were added to the resultant solution at -20° C., the insoluble product was separated by filtration, washed with water and acetone in turn and then dried to give p-nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate (syn isomer, 0.6 g.). After ethyl acetate was removed from the above filtrate, the aqueous layer was extracted with ethyl acetate (50 ml.) twice. The ethyl acetate layer and the extract were combined together, washed with 10% hydrochloric acid, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in turn and then dried over magnesium sulfate. After removing ethyl acetate from the solution, diethyl ether was added to the residue. The insoluble product was collected by filtration to give the same object compound (0.25 g.), m.p. 226° to 228° C. (dec.), Total yield 0.85 g.

reactant | phosphorous oxychloride | 0.34 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | 2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetic acid | 0.46 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C7H7N3O4S
reactant | p-Nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate hydrochloride | 0.81 g | Cl.NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | trimethylsilylacetamide | 2.10 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-Dimethylformamide | 0.16 g | CN(C=O)C | C3H7NO
product | p-nitrobenzyl 7-{2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetamido}-3-chloro-3-cephem-4-carboxylate | 0.6 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H17ClN6O8S2
